US08207352B2
3-(2,5-difluorophenyl)-3-hydroxy-2-methyl-4-(1H-1,2,4-triazol-1-yl)butanenitrile
To a solution of diisopropylamine (11 g) in dry THF (100 ml) 1.6 M solution of butyllithium in hexane (63 ml) was slowly added at −78° C. under nitrogen atmosphere. The mixture was allowed to warm up to −30° C., then re-cooled to −78° C. before propionitrile (5.4 g) was slowly added (exothermic reaction, cooling). The mixture was stirred at this temperature for ca. 15 min, 1-(2,5-difluorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethanone (10 g) was added, the reaction mixture warmed up to −20° C. within ca. 1 hr and finally poured on aqueous solution of phosphate buffer (pH 7). The aqueous phase was extracted 3 times with ethylacetate (300 ml) and the combined organic phase was twice with water, dried with sodium carbonate, filtered and evaporated under reduced pressure providing the title compound: 9 g. The analytical data were identical with published in U.S. Pat. No. 6,300,353 and WO99/45008 for (2S,3R)-enantiomer.

reactant | diisopropylamine | 11 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | propionitrile | 5.4 g | C(CC)#N | C3H5N
reactant | 1-(2,5-difluorophenyl)-2-(1H-1,2,4-triazol-1-yl)ethanone | 10 g | FC1=C(C=C(C=C1)F)C(CN1N=CN=C1)=O | C10H7F2N3O
reactant | phosphate | pH 7 | P(=O)([O-])([O-])[O-]
solvent | THF | 1.6 M, 100 ml | C1CCOC1 | C4H8O
solvent | hexane | 63 ml | CCCCCC | C6H14
product | 3-(2,5-difluorophenyl)-3-hydroxy-2-methyl-4-(1H-1,2,4-triazol-1-yl)butanenitrile | FC1=C(C=C(C=C1)F)C(C(C#N)C)(CN1N=CN=C1)O | C13H12F2N4O
